US04840947
6-(4-Pyridinyl)-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine
N-[2-(2,3-dihydro-1H-indol-1-yl)phenyl]-4-pyridinecarboxamide (10 gm) in phosphorous oxychloride (300 ml) was refluxed under nitrogen for 4.5 hours. Themixture was cooled to room temperature. The excess of phosphorous oxychloride was removed under reduced pressure (55° C.). The residue was partitioned between dichloromethane and 10% sodium hydroxide solution (600 ml:600 ml). The organic phase was separated and washed with water (250 ml) and brine (2×500 ml). The solution was dried over anhydrous magnesium sulfate and concentrated to about 10 gm of gum. Purification was effected by flash chromatography (silica, 150 gm, eluted with 1.5% methanol/98.5% dichloromethane, 4 L) to yield 6.7 gm of solid. Recrystallization from hot ethanol (70 ml) yielded 5.24 gm of crystals, m.p. 152°-153° C.

reactant | N-[2-(2,3-dihydro-1H-indol-1-yl)phenyl]-4-pyridinecarboxamide | 10 gm | N1(CCC2=CC=CC=C12)C1=C(C=CC=C1)NC(=O)C1=CC=NC=C1 | C20H17N3O
solvent | phosphorous oxychloride | 300 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-(4-Pyridinyl)-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | 6.7 gm | N1=CC=C(C=C1)C1=NC2=C(N3C4=C1C=CC=C4CC3)C=CC=C2 | C20H15N3
